data/oMe_Silver.jsonl
{"reaction_id": "NR-110_1-C_2-C#N_3-c1ccccc1_4-c1ccc2ccccc2c1","name": "Horner-Wadsworth-Emmons Reaction","level": "medium","reactants_smiles": ["P(=O)(OC)(OC)C(C#N)c1ccccc1","O=Cc1ccc2ccccc2c1"],"products_smiles": ["C(c1ccc2ccccc2c1)=C(C#N)c1ccccc1"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "P(=O)(OC)(OC)[C-](C#N)c1ccccc1","rationale": "The base abstracts the acidic α-proton next to the phosphonate due to strong electron-withdrawing effects of the P=O group, stabilizing the resulting carbanion via resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "P(=O)(OC)(OC)C(C#N)(c1ccccc1)C([O-])c1ccc2ccccc2c1","rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COP1([O-])(OC)C(C#N)(c1ccccc1)C(c1ccc2ccccc2c1)O1","rationale": "Intramolecular attack of the alkoxide on phosphorus forms a four-membered oxaphosphetane, favored by proximity and the strong P–O bond formation."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc2ccccc2c1)=C(C#N)c1ccccc1","rationale": "The oxaphosphetane collapses, eliminating the phosphate group as a stable leaving group, driven by formation of the thermodynamically stable C=C bond."}],"description": "Under basic conditions, the Horner–Wadsworth–Emmons reaction proceeds via deprotonation of the phosphonate to form a stabilized carbanion, nucleophilic attack on the aldehyde, cyclization to an oxaphosphetane intermediate, and elimination to yield the alkene product with high selectivity."}
{"reaction_id": "NR-115_10-CC_1-C_2-C(C)(C)C_3-N(C)C_4-C(C)(C)C_5-c1occc1_6-c1ccccc1_7-Br_8-C(C)C_9-C(C)C","level": "medium","name": "Ireland-Claisen Rearrangement","reactants_smiles": ["C(=C(N(C)C)C(O/C(=C(/c1ccccc1)Br)/O[Si](C(C)C)(C(C)C)(CC))(c1occc1)C(C)(C)C)(C)C(C)(C)C"],"products_smiles": ["C(=C(N(C)C)C(C(C(=O)O[Si](C(C)C)(C(C)C)(CC))(Br)c1ccccc1)(c1occc1)C(C)(C)C)(C)C(C)(C)C"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=C(N(C)C)C(C(C(=O)O[Si](C(C)C)(C(C)C)(CC))(Br)c1ccccc1)(c1occc1)C(C)(C)C)(C)C(C)(C)C","step_weight": 0,"rationale": "Thermal activation enables a concerted [3,3]-sigmatropic shift via a six-membered transition state, favored by the stability of the resulting carbonyl and relief of allylic strain in the silyl ketene acetal."}],"description": "Upon heating, the silyl ketene acetal undergoes a [3,3]-sigmatropic Ireland–Claisen rearrangement, shifting the allyl group to form a new C–C bond adjacent to the carbonyl. The process is thermally allowed and driven by the formation of a more stable, conjugated carbonyl system."}
{"reaction_id": "NR-208_1-C#N_2-Cl_3-C(C)CC_4-COCC","level": "easy","name": "Overman Rearrangement","reactants_smiles": ["C(C#N)=C(Cl)C(C(C)CC)(COCC)OC=N"],"products_smiles": ["C(=O)NC(C#N)C(Cl)=C(C(C)CC)(COCC)"],"conditions": "None","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=O)NC(C#N)C(Cl)=C(C(C)CC)(COCC)","step_weight": 0,"rationale": "Thermal activation enables a [3,3]-sigmatropic shift via a six-membered cyclic transition state, with allylic π-orbitals and imidate lone pairs overlapping to form a more stable amide through resonance stabilization."}],"description": "The allylic imidate undergoes a concerted [3,3]-sigmatropic rearrangement under thermal conditions, shifting the connectivity to form an allylic amide. This pericyclic process is driven by favorable orbital overlap and the thermodynamic stability of the amide product."}
